US08242139B2
4-(5-(5-nitropyridin-2-yl)thiazol-2-yl)tetrahydro-2H-pyran-4-ol
To a cold (−78° C.) solution of thiazole (0.382 mL, 5.41 mmol) in tetrahydrofuran (30 mL) was added n-butyllithium (3.38 mL, 5.41 mmol, 1.6 M in hexane) dropwise. After 15 minutes, dihydro-2H-pyran-4(3H)-one (0.49 mL, 5.41 mmol) was added in a single portion. After 30 minutes, n-butyllithium (3.38 mL, 5.41 mmol, 1.6 M in hexane) was added dropwise. The reaction was allowed to stir for an additional 20 minutes, after which ZnCl2 (10.8 mL, 10.8 mmol, 1 M in diethyl ether) was added. The cooling bath was removed, and the reaction warmed to room temperature. 2-Bromo-5-nitropyridine (1.10 g, 5.41 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.623 g, 0.54 mmol) were added, and the reaction heated to 55° C. for 16 h. The reaction was cooled to ambient temperature and quenched by the addition of saturated NH4Cl (30 mL) and ethyl acetate (30 mL). The layers were separated, and the aqueous was extracted with additional ethyl acetate (2×30 mL). The combined organics were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on SiO2, eluting with a gradient of 10% ethyl acetate in hexane to 35% ethyl acetate in hexane, to give the title product. MS (ESI) m/z 308 [M+H]+.

reactant | thiazole | 5.41 mmol, 0.382 mL | S1C=NC=C1 | C3H3NS
reactant | n-butyllithium | 5.41 mmol, 1.6 M, 3.38 mL | C(CCC)[Li]
reactant | dihydro-2H-pyran-4(3H)-one | 5.41 mmol, 0.49 mL | O1CCC(CC1)=O | C5H8O2
reactant | n-butyllithium | 5.41 mmol, 1.6 M, 3.38 mL | C(CCC)[Li]
reactant | 2-Bromo-5-nitropyridine | 5.41 mmol, 1.10 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | ZnCl2 | 10.8 mmol, 1 M, 10.8 mL | [Cl-].[Cl-].[Zn+2]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.54 mmol, 0.623 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(5-(5-nitropyridin-2-yl)thiazol-2-yl)tetrahydro-2H-pyran-4-ol | [N+](=O)([O-])C=1C=CC(=NC1)C1=CN=C(S1)C1(CCOCC1)O | C13H13N3O4S
